Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin
 
Attending: ___.
 
Chief Complaint:
Shortness of breath and somnolence
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ y.o. woman with h/o of CAD, diabetes 
mellitus, hypertension, and diastolic CHF (last EF>55% in ___ 
who presents with shortness of breath and somnolence. She lives 
in a nursing home but her family requested she be transported 
home for ___, after spending time at home she was 
transported via ambulance to her SNF, en route she complained of 
SOB and was diverted to ___. Upon arrival to ___ she stated 
she was not short of breath; however according to her family she 
has been more somnolent x 2 weeks.  
.  
The patient currently has only one complaint of urinary urgency, 
she has dementia and is not a great historian.  
.  
In the ED, she was afebrile, VSS, she rec'd ceftriaxone for a 
positive U/A.  
.  

 
Past Medical History:
CAD with possible h/o MI in ___  
DM complicated by gastroparesis  
HTN  
h/o stroke in 1990s, no residual defects  
diastolic CHF, last EF >55% with 2+AR in ___  
Gastritis and history of H-pylori ___  
Iron deficiency anemia: baseline Hct ___ in ___.  
Depression  
Glaucoma.  
s/p appendectomy.  
Colonic adenoma per colonoscopy ___.  
.  
CARDIAC RISK FACTORS: (+) Diabetes, (-)Dyslipidemia, 
(+)Hypertension  
.  
CARDIAC HISTORY:  
-CABG: None.  
-PERCUTANEOUS CORONARY INTERVENTIONS: None.  
-PACING/ICD: None.  

 
Social History:
___
Family History:
Unable to provide history.
 
Physical Exam:
VS: T 97.0 BP 141/82 HR 82 RR 16 94%  
GENERAL: NAD, AOx1, somnolent but easy to arouse, combative upon 
examination.  
HEENT: MM dry, JVP 8cm  
CARDIAC: RRR, no m/r/g  
LUNGS: CTAB anteriorly, patient will not sit up for posterior 
exam  
ABDOMEN: Soft, suprapubic pressure induces some tenderness, no 
rebound. No HSM  
EXTREMITIES: No c/c/e, wwp.  

 
Pertinent Results:
___ 02:30PM   ___ PTT-25.8 ___
___ 02:30PM   PLT COUNT-256
___ 02:30PM   NEUTS-55.1 ___ MONOS-7.2 EOS-3.9 
BASOS-0.9
___ 02:30PM   WBC-6.0 RBC-4.71 HGB-13.2# HCT-39.9# MCV-85# 
MCH-28.1# MCHC-33.1# RDW-14.0
___ 02:30PM   CK-MB-NotDone
___ 02:30PM   cTropnT-0.04*
___ 02:30PM   CK(CPK)-51
___ 02:30PM   estGFR-Using this
___ 02:30PM   GLUCOSE-145* UREA N-23* CREAT-1.1 SODIUM-138 
POTASSIUM-4.5 CHLORIDE-99 TOTAL CO2-29 ANION GAP-15
___ 03:15PM URINE  WBCCLUMP-FEW
___ 03:15PM URINE  ___ WBC->50 BACTERIA-MANY 
YEAST-NONE ___ 03:15PM URINE  BLOOD-LG NITRITE-POS PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD
___ 03:15PM URINE  COLOR-Straw APPEAR-Cloudy SP ___
___ 04:41PM   LACTATE-2.3*
___ 04:41PM   COMMENTS-GREEN TOP
___ 09:30PM   CK-MB-NotDone cTropnT-0.03*
___ 09:30PM   CK(CPK)-___SSESSMENT AND PLAN: ___ yoF w/ a h/o DM, CAD and dementia 
presents with somnolence and a UTI also noted to have a slightly 
elevated troponin.  
.  
# CORONARIES: Ruled out for MI. CAD reported but no records of 
cath or anatomy. Reportedly MI in ___.  She was continued on 
ASA 81mg daily  
.  
# PUMP: ECHO during admission showing normal biventricular 
systolic function with mild LV diastolic dysfunction and mild to 
moderate AR.  CXR clear.  Shortness of breath which she 
developed on admission resolved without intervention.  Also, 
blood pressure was elevated during admission. Lisinopril was 
added to the patient's regimen prior to discharge.  Her 
electrolytes should be followed as well as her renal function 
within one to two weeks of starting this medication.
.  
# RHYTHM: Sinus, no events on telemetry 
.  
# UTI: Positive UA on admission with gram negative rods.  She 
was started on ceftriaxone with improvement in her somnolence 
and confusion.  Additionally, at one point after foley removal, 
had some difficulty with urination which resolved with IVF.  She 
should complete a 10 day course of antibiotics.  She will be 
discharged on cefpodoxime to complete this course.  Her urine 
culture has not been speciation.  Please call the ___ 
microbiology lab on ___ at ___ to get 
the results of this test to confirm that the bacteria is 
sensitive to cefpodoxime.  
.  
# Somnolence: Likely secondary to UTI, complicated by 
Alzheimer's disease.  Improved with treatment of UTI. No focal 
deficits.  
.  
# DM: On no medications for diabetes.  She was treated with an 
insulin sliding scale during admission.  This can be followed as 
an outpatient. 
.  
# Anemia: Baseline Hct ___ from ___, has been stable during 
admission. 
.  
# Depression: Continued patient on home remeron and depakote  
.  
# Gastritis: PPI  

 
Medications on Admission:
multivitamin daily  
colace BID  
ferrous sulfate  
zantac  
percocet 5mg po tid prn  
MOM  
lasix 20mg po daily  
remeron 30mg  
trazodone 12.5mg po qhs  
depakote 250mg po tid  
eye drops: pilocarpine gtt  

 
Discharge Medications:
1. Aspirin EC 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
5. Zantac  Oral
6. Mirtazapine 30 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
7. Trazodone 50 mg Tablet Sig: 0.25 Tablet PO HS (at bedtime) as 
needed.  
8. Divalproex ___ mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO TID (3 times a day).  
9. Insulin Lispro 100 unit/mL Solution Sig: One (1)  
Subcutaneous ASDIR (AS DIRECTED): sliding scale.  
10. Cefpodoxime 100 mg Tablet Sig: One (1) Tablet PO twice a day 
for 7 days.
Disp:*14 Tablet(s)* Refills:*0*
11. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: 
UTI
Shortness of breath
Hypertension

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted with a UTI and shortness of breath.  Your 
shortness of breath resolved spontaneously.  Your CXR was 
normal.  You were found to have a UTI.   You should continue 
taking antibiotics for an additional 7 days.

Also, your blood pressure has been elevated.  We have added a 
new medication to your regimen, Lisinopril.  Please take this as 
directed.  You should have your electrolytes (sodium, potassium, 
creatinine) checked in 1 to 2 weeks after starting this 
medication.

Please call your doctor or return to the emergency room if you 
have chest pain, shortness of breath or any other symptoms that 
concern you.
 
Followup Instructions:
___